US04879314
To the mixture of dibromoformaldoxime (5 g, 24.63 mole) and propionyl chloride (2.31 g, 25 mole) in dry methylene chloride (30 ml) is slowly added dry pyridine (2 g, 25.5 mole) over 10 min at 0° to 5° C. with stirring. After addition the reaction mixture is stirred at 5° C. for 30 min and at 25° C. for another 30 min. The resultant suspension is diluted with methylene chloride and washed with water and brine. The organic layer is dried over MgSO4. Evaporation of solvent affords 5.44 g (85% of theory) of O-propionyldibromoformaldoxime as a light yellow liquid. NMR spectrum shows this to be the desired compound.

reactant | dibromoformaldoxime | 24.63 mole, 5 g | BrC(=NO)Br | CHBr2NO
reactant | propionyl chloride | 25 mole, 2.31 g | C(CC)(=O)Cl | C3H5ClO
reactant | pyridine | 25.5 mole, 2 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | O-propionyldibromoformaldoxime | 5.44 g, 85% | C(CC)(=O)ON=C(Br)Br | C4H5Br2NO2
